US03954732
Methyl 2-oxo-3-(2-phenoxyacetamido)-4-anilinothio-α-isopropenylazetidine-1-acetate (0.12 g) was dissolved in dry methylene chloride (5 ml). To this solution was added 5% methanolic hydrochloric acid (0.8 ml) and the mixture was stirred for 10 hours at room temperature. After the reaction, the reaction mixture was concentrated under reduced pressure and the residue was extracted with ethyl acetate. The extract was washed with water and dried. The solvent was distilled off and the residue was subjected to column chromatography on silica gel using chloroform as developing solvent to give oily methyl 3-chloro-3 -methyl-7-(2-phenoxyacetamido)cepham-4-carboxylate (0.07 g). Infrared Absorption Spectrum (Chloroform)

reactant | Methyl 2-oxo-3-(2-phenoxyacetamido)-4-anilinothio-α-isopropenylazetidine-1-acetate | 0.12 g | O=C1N(C(C1NC(COC1=CC=CC=C1)=O)SNC1=CC=CC=C1)C(C(=O)OC)C(=C)C | C23H25N3O5S
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-chloro-3 -methyl-7-(2-phenoxyacetamido)cepham-4-carboxylate | 0.07 g | ClC1(CS[C@H]2N(C1C(=O)OC)C(C2NC(COC2=CC=CC=C2)=O)=O)C | C17H19ClN2O5S
